US04923857
To a solution of 1-benzyl-2,5-bis(hydroxymethyl)pyrrolidine (30 g) and imidazole (27.8 g) in dimethylformamide (300 ml) was added portionwise t-butyldimethylsilyl chloride (20.4 g) at room temperature. After stirring for 1 hour at room temperature, water (0.9 l) and ethyl acetate (1.4 l) was added to the mixture. After shaking, aqueous layer was separated and extracted twice with ethyl acetate. The combined organic layer was washed with water (3 times) and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was column chromatographed on silica gel (eluent:nexane/ethyl acetate, 8:2-7:3 V/V) to give 1-benzyl-5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine (16.8 g).

reactant | 1-benzyl-2,5-bis(hydroxymethyl)pyrrolidine | 30 g | C(C1=CC=CC=C1)N1C(CCC1CO)CO | C13H19NO2
reactant | imidazole | 27.8 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 20.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 0.9 l | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1.4 l | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-5-t-butyldimethylsilyloxymethyl-2-hydroxymethylpyrrolidine | 16.8 g | C(C1=CC=CC=C1)N1C(CCC1CO[Si](C)(C)C(C)(C)C)CO | C19H33NO2Si
